US08114894B2
N-(1-(2-Aminoethyl)piperidin-4-yl)-2-(1-isopropyl-1H-indol-3-yl)-2-oxoacetamide hydrochloride
The title compound was prepared according to general procedure D described in Scheme 2. tert-Butyl 2-(4-(2-(1-isopropyl-1H-indol-3-yl)-2-oxoacetamido)piperidin-1-yl)ethylcarbamate (132 mg, 0.29 mmol) was treated with 3 N HCl in MeOH (2 mL, 1.2 mmol) and stirred at RT for 30 min. The reaction mixture was concentrated under reduced pressure to afford the title compound as a pink solid (106 mg, 100%), which was used without further purification in the sulfonamide formation.

reactant | tert-Butyl 2-(4-(2-(1-isopropyl-1H-indol-3-yl)-2-oxoacetamido)piperidin-1-yl)ethylcarbamate | 0.29 mmol, 132 mg | C(C)(C)N1C=C(C2=CC=CC=C12)C(C(=O)NC1CCN(CC1)CCNC(OC(C)(C)C)=O)=O | C25H36N4O4
reactant | HCl | 3 N | Cl | ClH
reactant | MeOH | 1.2 mmol, 2 mL | CO | CH4O
product | N-(1-(2-Aminoethyl)piperidin-4-yl)-2-(1-isopropyl-1H-indol-3-yl)-2-oxoacetamide hydrochloride | 106 mg, 100% | Cl.NCCN1CCC(CC1)NC(C(=O)C1=CN(C2=CC=CC=C12)C(C)C)=O | InChI=1S/C20H28N4O2.ClH/c1-14(2)24-13-17(16-5-3-4-6-18(16)24)19(25)20(26)22-15-7-10-23(11-8-15)12-9-21;/h3-6,13-15H,7-12,21H2,1-2H3,(H,22,26);1H
